US09416127B2
Step a) Ethyl 2-(4-(trifluoromethoxy)phenyl)-2H-1,2,3-triazole-4-carboxylate
Ethyl 2H-1,2,3-triazole-4-carboxylate (CAS 1084802-21-0) (250 mg, 1.77 mmol, Eq: 1.00), 4-(trifluoromethoxy)phenylboronic acid (730 mg, 3.54 mmol, Eq: 2) and diacetoxy copper (644 mg, 3.54 mmol, Eq: 2) were dissolved in DMA (8.86 ml). Then pyridine (560 mg, 572 μl, 7.09 mmol, Eq: 4) was added and the reaction mixture was stirred at rt for 48 hours. Water and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with brine, dried over MgSO4 and evaporated. The crude material was purified by silica gel flash chromatography to yield a white solid (129 mg, 24%). MS (ISP): 302.1 ([M+H]+).

reactant | Ethyl 2H-1,2,3-triazole-4-carboxylate | 1.77 mmol, 250 mg | N=1NN=C(C1)C(=O)OCC | C5H7N3O2
reactant | 4-(trifluoromethoxy)phenylboronic acid | 3.54 mmol, 730 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | pyridine | 7.09 mmol, 572 μl, 560 mg | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | DMA | 8.86 ml | CC(=O)N(C)C | C4H9NO
catalyst | diacetoxy copper | 3.54 mmol, 644 mg | C(C)(=O)O[Cu]OC(C)=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-(4-(trifluoromethoxy)phenyl)-2H-1,2,3-triazole-4-carboxylate | 129 mg, 24% | FC(OC1=CC=C(C=C1)N1N=CC(=N1)C(=O)OCC)(F)F | C12H10F3N3O3
